US05977125
Preparation of 5,6,7,8-tetrahydro-2,3-diisopropylquinoxaline
8.7 g of 2,5-dimethyl-3,4-hexanedione and 11.2 ml of 1,2-cyclohexanediamine were dissolved in 20 ml of acetic acid. The obtained solution was heated under reflux for 30 hours, cooled by allowing to stand, and poured into water, followed by the extraction with ethyl acetate. The organic phase was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate, and concentrated in a vacuum. The obtained residue was purified by silica gel chromatography (developer: 5% ethyl acetate/hexane) to give 6.8 g of the title compound as a colorless oil.

reactant | 2,5-dimethyl-3,4-hexanedione | 8.7 g | CC(C)C(C(C(C)C)=O)=O | C8H14O2
reactant | 1,2-cyclohexanediamine | 11.2 ml | C1(C(CCCC1)N)N | C6H14N2
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5,6,7,8-tetrahydro-2,3-diisopropylquinoxaline | 6.8 g | C(C)(C)C1=NC=2CCCCC2N=C1C(C)C | C14H22N2
